US04022900
3,4,5-Trimethoxybenzoyl chloride was reacted with 5-aminoisoquinoline according to the procedure of Example 8 to produce 5-(3,4,5-trimethoxybenzamido) isoquinoline. This product was then reduced according to the procedure of Example 8 to yield 5-(3,4,5-trimethoxybenzamido)-1,2,3,4-tetrahydroisoquinoline HCl. After purification from methanol it had a melting point of 270°-271.5° C.

reactant | 3,4,5-Trimethoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | 5-aminoisoquinoline | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
product | 5-(3,4,5-trimethoxybenzamido) isoquinoline | COC=1C=C(C(=O)NC2=C3C=CN=CC3=CC=C2)C=C(C1OC)OC | C19H18N2O4
